US04163789
To a solution of N-(1-cyclohexylmethylpiperid-4-yl)-2-methoxy-4-acetamido-5-chlorobenzamide (10 g; 0.023 moles) in glacial acetic acid (50 ml) a 30% hydrogen peroxide solution (6 ml) was added. The mixture was heated for 8 hours at a temperature between 70° and 80° C. Afterwards the solvent was evaporated in vacuo, and N-(1-cyclohexylmethylpiperid-4-yl)-2-methoxy-4-acetamido-5-chlorobenzamide N-oxide was obtained as a viscous liquid. After recrystallisation from a mixture of acetone and diethyl ether, there was obtained 7.3 g of the N-oxide, melting at 206°-208° C.

reactant | N-(1-cyclohexylmethylpiperid-4-yl)-2-methoxy-4-acetamido-5-chlorobenzamide | 0.023 moles, 10 g | C1(CCCCC1)CN1CCC(CC1)NC(C1=C(C=C(C(=C1)Cl)NC(C)=O)OC)=O | C22H32ClN3O3
reactant | hydrogen peroxide | 6 ml | OO | H2O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-(1-cyclohexylmethylpiperid-4-yl)-2-methoxy-4-acetamido-5-chlorobenzamide N-oxide | C1(CCCCC1)CN1CCC(CC1)[NH+](C(C1=C(C=C(C(=C1)Cl)NC(C)=O)OC)=O)[O-] | C22H32ClN3O4
